US06268387B1
3-[3-(4-Chloro-3-nitrophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.973 g, 4.00 mmol) and 4-chloro-3-nitrophenyl isothiocyanate (0.859 g, 4.00 mmol) to afford the product (1.296 g); m.p. 174-175° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.973 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 4-chloro-3-nitrophenyl isothiocyanate | 4.00 mmol, 0.859 g | ClC1=C(C=C(C=C1)N=C=S)[N+](=O)[O-] | C7H3ClN2O2S
product | 3-[3-(4-Chloro-3-nitrophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 1.296 g | ClC1=C(C=C(C=C1)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S)[N+](=O)[O-] | C21H17ClN4O4S
